US04710515
Preparation of N-(3',5'-di-tertiary-butyl-4'-hydroxy-2-biphenylyl)glutaramic Acid
A solution of 1.9 g (6.4 mmole) of the known compound 2'-amino-3,5-di-tertiary-butyl-4-hydroxybiphenyl, 0.8 g (7.0 mmole) of glutaric anhydride and 50 ml of glyme was heated on a steam bath for three hours, then an additional 0.20 g of glutaric anhydride was added. The mixture was heated at reflux for six hours, then poured into water. The aqueous mixture was extracted with diethyl ether, and the ether extracts were then washed with 10% hydrochloric acid and water. The ether solution was extracted with dilute sodium carbonate solution, and the aqueous extracts were acidified to about pH 1 with 10% hydrochloric acid. An oil separated and crystallized after scratching to initiate crystal formation. Recrystallization of the residue from aqueous ethanol provided tan crystals of N-(3',5'-di-tertiary-butyl-4'-hydroxy-2-biphenylyl)-glutaramic acid, m.p. 132°-134° C. Anaylsis: Calculated for C25H33NO4 : % C, 73.0; % H, 8.1; % N, 3.4; Found: % C, 73.0; % H, 8.0; % N, 3.3.

reactant | 2'-amino-3,5-di-tertiary-butyl-4-hydroxybiphenyl | NC1=C(C=CC=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H27NO
reactant | glutaric anhydride | 7.0 mmole, 0.8 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | glyme | 50 ml | C(OC)COC | C4H10O2
reactant | glutaric anhydride | 0.20 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | water | O | H2O
product | N-(3',5'-di-tertiary-butyl-4'-hydroxy-2-biphenylyl)glutaramic Acid | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=C(C=CC=C1)NC(CCCC(=O)O)=O | C25H33NO4
